US07759373B2
A mixture of 5-ethylamino-2-(4-fluorophenyl)-4-phenyl-imidazole (145 mg) in ethyl formate (8 ml) was refluxed for 8 hours. After cooling, the mixture was concentrated under reduced pressure, and crystallized from diethyl ether to obtain 5-formylethylamino-2-(4-fluorophenyl)-4-phenylimidazole (136 mg) as colorless crystal.

reactant | 5-ethylamino-2-(4-fluorophenyl)-4-phenyl-imidazole | 145 mg | C(C)NC1=C(N=C(N1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C17H16FN3
reactant | ethyl formate | 8 ml | C(=O)OCC | C3H6O2
product | 5-formylethylamino-2-(4-fluorophenyl)-4-phenylimidazole | 136 mg | C(=O)CCNC1=C(N=C(N1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C18H16FN3O
